US04200641
To a stirred mixture of 19 parts of 2-(methylthio)-1H-benzimidazole-1-propanol, 15.2 parts of N,N-diethylethanamine and 195 parts of dichloromethane are added dropwise 11.5 parts of methanesulfonyl chloride. Upon completion, stirring is continued for one hour at reflux. After cooling, water is added and the layers are separated. The organic phase is dried, filtered and evaporated, yielding 3-[2-(methylthio)-1H-benzimidazol-1-yl]propyl methanesulfonate as an oily residue.

reactant | 2-(methylthio)-1H-benzimidazole-1-propanol | CSC1=NC2=C(N1CCCO)C=CC=C2 | C11H14N2OS
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | O | H2O
product | 3-[2-(methylthio)-1H-benzimidazol-1-yl]propyl methanesulfonate | CS(=O)(=O)OCCCN1C(=NC2=C1C=CC=C2)SC | C12H16N2O3S2
